US08017607B2
To a solution of rac-(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl chloride (0.34 g, 0.7 mmol) in tetrahydrofuran (5 mL) was added 2-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-ethylamine (0.1 g, 0.71 mmol) and triethylamine (0.15 mL, 1 mmol). The reaction mixture was stirred at room temperature for 30 min. An aqueous HCl solution (1 N, 5 mL, 5 mmol) was added. The reaction mixture was stirred at room temperature for 1 h. The solvents were removed and the residue was partitioned between ethyl acetate and NaHCO3 (sat.) solution. The organic layer was separated, washed with water, brine, dried over MgSO4, and concentrated. The residue was purified by column chromatography (EtOAc) to afford rac-(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid ((S)-3,4-dihydroxy-butyl)-amide as a white solid (0.11 g, 28%). HRMS (ES+) m/z Calcd for C27H31Cl2F2N3O3+H [(M+H)+]: 554.1784; Found: 554.1785.

reactant | rac-(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl chloride | 0.7 mmol, 0.34 g | ClC=1C(=C(C=CC1)C1C(C(N(C1)C(=O)Cl)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C23H21Cl3F2N2O
reactant | 2-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-ethylamine | 0.71 mmol, 0.1 g | CC1(OC[C@@H](O1)CCN)C | C7H15NO2
reactant | triethylamine | 1 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 5 mmol, 1 N, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | rac-(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid ((S)-3,4-dihydroxy-butyl)-amide | 0.11 g, 28% | O[C@@H](CCNC(=O)N1C(C(C(C1)C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)CO | C27H31Cl2F2N3O3
